US07863305B2
Pyridine-4-carboxaldehyde (2.04 g) was mixed with Meldrum's acid (2,2-Dimethyl-[1,3]dioxane-4,6-dione, 2.7 g) and proline (0.20 g) in acetonitrile (40 ml) with stirring under a nitrogen atmosphere. Almost immediately product began to precipitate. The mixture was stirred overnight, filtered and washed with ether, affording 3.7 g of 2,2-dimethyl-5-pyridin-4-ylmethylene-[1,3]dioxane-4,6-dione which was used with no further purification in the next step.

reactant | Pyridine-4-carboxaldehyde | 2.04 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | Meldrum's acid | 2.7 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | proline | 0.20 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 2,2-dimethyl-5-pyridin-4-ylmethylene-[1,3]dioxane-4,6-dione | 3.7 g | CC1(OC(C(C(O1)=O)=CC1=CC=NC=C1)=O)C | C12H11NO4
